US04927565
110 mg of ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoate was dissolved in 1.0 ml of ethanol, and hydrogenated by using 12 mg of 10% palladium carbon as catalyst at room temperature under atmospheric pressure. The catalyst was filtered off, and the solvent was distilled off under reduced pressure to obtain 77 mg of ethyl (4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate as a colorless oily substance.

reactant | ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)ethyl]-2-propenoate | 110 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)OCC)CCOC1OCCCC1)(C)C | C29H43NO7
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
catalyst | palladium carbon | 12 mg | [C].[Pd]
product | ethyl (4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate | 77 mg | N[C@H]([C@H](C=C(C(=O)OCC)CCOC1OCCCC1)O)CC(C)C | C18H33NO5
